US05202483
b) 3-Acrylamidomethyl-4-methoxybenzophenone
A mixture of 1000 g of sulfuric acid, 175.6 g (0.825 mole) of 4-methoxybenzophenone, 0.5 g of 2,5-di-tert-butyl-p-cresol and 86 g (0.851 mole) of N-methylolacrylamide was reacted for 5 hours at 25° C. and then hydrolyzed on ice.

reactant | sulfuric acid | 1000 g | S(O)(O)(=O)=O | H2O4S
reactant | 4-methoxybenzophenone | 0.825 mole, 175.6 g | COC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C14H12O2
reactant | 2,5-di-tert-butyl-p-cresol | 0.5 g | C(C)(C)(C)C1=CC(=C(C=C1O)C(C)(C)C)C | C15H24O
reactant | N-methylolacrylamide | 0.851 mole, 86 g | C(O)NC(C=C)=O | C4H7NO2
product | 3-Acrylamidomethyl-4-methoxybenzophenone | C(C=C)(=O)NCC=1C=C(C(=O)C2=CC=CC=C2)C=CC1OC | C18H17NO3
